US07632783B2
3-(4,5-difluoro-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline (Compound No. 1-927) (Process G)
Diethylaminosulphur trifluoride (76 mg) was added to an methylene chloride (20 mL) solution of 3-(5-fluoro-4-hydroxy-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline (50 mg, 0.16 mmol), followed by stirring for 1 hour under ice cooling, pouring water, extracting with ethyl acetate, and applying the resulting residue to chromatography to obtain 45 mg (yield 90%) of the target compound.

reactant | Diethylaminosulphur trifluoride | 76 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | 3-(5-fluoro-4-hydroxy-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline | 0.16 mmol, 50 mg | FC1=C2C(C(N=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1)(C)C)O | C20H17FN2O
solvent | water | O | H2O
product | 3-(4,5-difluoro-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline | 45 mg, yield 90% | FC1C(N=C(C2=CC=CC(=C12)F)C=1C=NC2=CC=CC=C2C1)(C)C | C20H16F2N2
